US06423713B1
4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-methyl-2-pyrimidinamine
A suspension of 2-chloro-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]pyrimidine prepared in accordance with Example A-299 (0.3 g, 0.0011 mol) in 10 mL of methylamine (40% water solution) was heated in a sealed tube at 100° C. overnight. The mixture was then cooled to room temperature and the precipitate was filtered, air-dried to give 0.2 g of product, 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-methyl-2-pyrimidinamine, as a white solid (68% yield), mp: 217-218° C.; Anal Calc'd for C14H12FN5: C, 62.45; H, 4.49; N, 26.01. Found: C, 62.58; H, 4.36; N, 25.90.

reactant | 2-chloro-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]pyrimidine | ClC1=NC=CC(=N1)C=1C(=NNC1)C1=CC=C(C=C1)F | C13H8ClFN4
reactant | methylamine | 10 mL | CN | CH5N
product | 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-methyl-2-pyrimidinamine | 0.2 g | FC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)NC | C14H12FN5
